US06057335
Preparation of 3-(2-indanyl)carbonylamino-5-(4-methylphenyl)-pyrazole
3-Amino-5-(4-methylphenyl)pyrazole (35 mg) and indan-2-carboxylic acid (33 mg) were dissolved in pyridine (2 ml) to which was subsequently added 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (58 mg), and the mixture was stirred at room temperature overnight. The reaction solution was diluted with ethyl acetate (30 ml), washed with water (30 ml), saturated aqueous sodium bicarbonate (30 ml) and saturated brine (30 ml) and then dried over anhydrous magnesium sulfate. Then, the solvent was distilled away. The resulting crystalline residue was washed with ethyl ether to obtain the title compound (34 mg) as white crystals (melting point: 220-225° C.).

reactant | 3-Amino-5-(4-methylphenyl)pyrazole | 35 mg | NC1=NNC(=C1)C1=CC=C(C=C1)C | C10H11N3
reactant | indan-2-carboxylic acid | 33 mg | C1C(CC2=CC=CC=C12)C(=O)O | C10H10O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 58 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 3-(2-indanyl)carbonylamino-5-(4-methylphenyl)-pyrazole | 34 mg | C1C(CC2=CC=CC=C12)C(=O)NC1=NNC(=C1)C1=CC=C(C=C1)C | C20H19N3O
